US08791288B2
With stirring under nitrogen atmosphere at −70° C., 12.0 g of dimethyl sulfoxide was added to a mixture of 14.4 g of oxalyl chloride and 100 ml of methylene chloride. Stirring was continued for 10 minutes. Below −55° C., a mixture of 8.72 g of 7-spiro[4.5]decanol and 20 ml of methylene chloride was added dropwise thereto, followed by stirring for 30 minutes at −70° C. After 50 g of triethylamine was added, the mixture was warmed up to −5° C. while stirring. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, followed by ordinary work-up of extraction, washing and drying, and purification by silica gel chromatography. There was obtained 8.22 g (yield 96%) of 7-spiro[4.5]decanone. This compound was found to have identical spectroscopic characteristics with the former compound.

reactant | dimethyl sulfoxide | 12.0 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 14.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-spiro[4.5]decanol | 8.72 g | C1CCCC12CC(CCC2)O | C10H18O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 50 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-spiro[4.5]decanone | 8.22 g, yield 96% | C1CCCC12CC(CCC2)=O | C10H16O
